Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
cc: pain
 
Major ___ or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with  PMH significant for sickle cell disease c/b 
bilateral AVN, asplenia, and prior acute chest syndrome, who 
presents with chest, joint, and back in as well as 
nausea/vomiting.   The patient was recently admitted from 
___ until ___ and treated for a sickle crisis. He 
reports he never got better after the last hospitalization with 
continued pain and daily vomiting. He denies nausea just says he 
vomits every day. He can vomit food or bile. Denies 
constipation. Last BM day prior to admission and formed. Denies 
blood in vomit or bile. Also reports some lower extremity 
swelling but no joint pain.

He currently reports he feels badly with pain in his back and 
joints. He reports a temperature to 100 at home. Does not know 
what precipitated this crisis.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. No recent change in bowel or bladder 
habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
Sickle Cell
-prior acute chest syndrome requiring intubation
-prior exchange transfusions. 
-On exjade (deferasirox) for iron overload secondary to 
transfusions
-bilateral AVN of femoral head, first noted at age ___, requiring 

surgery with b/l core decompression at age ___ (___)
-?stroke- left-sided infarcts noted on head imaging 
(asymptomatic) around age ___
-functionally asplenic, uptodate on vaccines
-___ crises per year, worse in the ___
-Port A Cath placement x 4 given inability to achieve IV access  

-Appendectomy  
-Cholecystectomy

 
Social History:
___
Family History:
Denies sickle cell trait in family. Family history of relatives 
with breast and prostate cancer. Mother is ill but patient does 
not elaborate. No siblings.
 
Physical Exam:
Vitals: 
98.1 BP: 133/81 HR: 78 R: 18 O2: 97%2LNC
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin:  no rashes
Neuro:  AAOx3, moving all extremities

Exam on discharge unchanged.
 
Pertinent Results:
___ 03:00AM   GLUCOSE-104* UREA N-7 CREAT-0.7 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-99 TOTAL CO2-26 ANION GAP-19
___ 03:00AM   ALT(SGPT)-31 AST(SGOT)-62* LD(LDH)-520* 
CK(CPK)-1436* ALK PHOS-113 TOT BILI-2.4* DIR BILI-0.5* INDIR 
BIL-1.9
___ 03:00AM   ALBUMIN-4.6
___ 03:00AM   WBC-14.4* RBC-2.53* HGB-8.6* HCT-24.5* MCV-97 
MCH-34.0* MCHC-35.1 RDW-18.5* RDWSD-63.5*
___ 03:00AM   NEUTS-62 BANDS-0 ___ MONOS-12 EOS-3 
BASOS-0 ___ MYELOS-0 NUC RBCS-3* AbsNeut-8.93* 
AbsLymp-3.31 AbsMono-1.73* AbsEos-0.43 AbsBaso-0.00*
___ 03:00AM   HYPOCHROM-2+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-1+ POLYCHROM-OCCASIONAL OVALOCYT-1+ 
TARGET-2+ SICKLE-1+ SCHISTOCY-OCCASIONAL BURR-OCCASIONAL 
ELLIPTOCY-OCCASIONAL
___ 03:00AM   PLT SMR-NORMAL PLT COUNT-393#
___ 03:00AM   RET AUT-13.0* ABS RET-0.32*

CXR: ___
IMPRESSION:  
Nonspecific peripheral right lower lobe opacity, which could be 
due to an 
early focus of pneumonia, atelectasis, or potentially acute 
chest syndrome. 

 
Brief Hospital Course:
This is a ___ year old male with a past medical history of sickle 
cell anemia, complicated by asplenia, femoral avascular  
necrosis presents with pain consistent with priors sickle cell 
pain crisis.

# Sickle Cell Anemia / Sickle Cell Pain Crisis 
Presented with  worsening chest pain, back pain, and joint pain 
as well as nausea and vomiting. CXR in ED with ? infiltrate.  No 
clear preciptant for current crisis. The patient was treated 
with pain medication per protocol documented in OMR.Dilaudid 4mg 
IV q 3hrs, Toradol x3 days, IV tylenol TID. He complained of 
itching without hives or rash noted. This was managed with oral 
benadryl which the patient did not tolerate due to nausea. 
Bilirubin and reticulocyte count improved with IV hydration. 
Pain service was consulted to help manage pain and aggreed with 
continuing current management.

#Nausea with vomiting
Patient reports daily vomiting and weight loss, although per OMR 
has acutally gained weight. Nursing recorded ~200cc of vomitus 
over the 24hrs the patient was admitted. He was able to tolerate 
some crackers before leaving AMA. 

#Access
The patient has a port for access. One of his lumens was not 
flushing. We discussed the risk of losing his port if this was 
not cleared. The patient left AMA before this was addressed.

The patient left AMA. He was counseled on the risks of leaving 
and advised to return with concerning syptoms. He did not wait 
for his discharge paperwork but was advised verbally of his 
follow up appointments.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PR QHS:PRN constipation 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea 1500 mg PO DAILY 
5. Lidocaine 5% Patch 3 PTCH TD QAM 
6. Morphine SR (MS ___ 45 mg PO Q12H 
7. OxycoDONE (Immediate Release)  30 mg PO ___ pain 
8. Promethazine 25 mg PO Q6H:PRN nausea 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Capsaicin 0.025% 1 Appl TP TID 
11. Exjade (deferasirox) ___ mg oral DAILY 

 
Discharge Medications:
1. Bisacodyl 10 mg PR QHS:PRN constipation 
2. Capsaicin 0.025% 1 Appl TP TID 
3. Docusate Sodium 100 mg PO BID 
4. FoLIC Acid 5 mg PO DAILY 
5. Hydroxyurea 1500 mg PO DAILY 
6. Lidocaine 5% Patch 3 PTCH TD QAM 
7. Senna 8.6 mg PO BID:PRN constipation 
8. Exjade (deferasirox) ___ mg oral DAILY 
9. Morphine SR (MS ___ 45 mg PO Q12H 
10. OxycoDONE (Immediate Release)  30 mg PO ___ pain 
11. Promethazine 25 mg PO Q6H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sickle Cell Pain Crisis
Nausea and Vomiting
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission. You were admitted with pain due to your sickle cell 
disease. You were treated with pain medications and nausea 
medications without much improvement in your symptoms. Your lab 
tests did show improvement. You are leaving against medical 
advice. Please follow up with your PCP and your hematologist at 
the appointments below.  One of the lumens of your port-a-cath 
could not be flushed. We discussed the risk that you can loose 
your port if it is clotted. You elected to leave before this 
could be addressed.

PATIENT LEFT AMA
 
Followup Instructions:
___